US06204277B1
Dimethyl 2-methyl-2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]malonate
Dimethyl 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzylmalonate (4.24 g, 10.0 mmol) synthesized according to the method described in WO95/18125 was dissolved in dimethylformamide (40 ml), and sodium hydride (60% in oil, 480 mg, 12.0 mmol) was added at 0° C., which was followed by stirring for 2 hr. Methyl iodide (0.93 ml, 15.0 mmol) was added at room temperature and, 2.5 hours later, 1N sodium hydrogensulfate (100 ml) was added. The mixture was extracted three times with ethyl acetate. The extracted organic layer was washed with brine, dried over sodium sulfate and concentrated to dryness to give a crude title compound, which was purified and concentrated by silica gel column chromatography (developing solvent; hexane:ethyl acetate=10:1→7:1→5:1) to give the title compound (2.71 g, yield 62%) as a white solid.

reactant | Dimethyl 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzylmalonate | 10.0 mmol, 4.24 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CC(C(=O)OC)C(=O)OC)C=C1 | C24H25NO6
reactant | sodium hydride | 12.0 mmol, 480 mg | [H-].[Na+]
reactant | Methyl iodide | 15.0 mmol, 0.93 ml | CI | CH3I
reactant | sodium hydrogensulfate | 1N, 100 ml | S(=O)(=O)(O)[O-].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Dimethyl 2-methyl-2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]malonate | 2.71 g, yield 62% | CC(C(=O)OC)(C(=O)OC)CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C25H27NO6
